US04171367
(1,3-Diphenyl-5-pyrazolyl) thiourea
1,3-Diphenyl-5-amino pyrazole (117.5 g.) and benzoyl isothiocyanate (89.65 g.) were reacted as described in Example IV to give 119.8 g. of product, mp 198°-201° C.

reactant | 1,3-Diphenyl-5-amino pyrazole | 117.5 g | C1(=CC=CC=C1)N1N=C(C=C1N)C1=CC=CC=C1 | C15H13N3
reactant | benzoyl isothiocyanate | 89.65 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | (1,3-Diphenyl-5-pyrazolyl) thiourea | C1(=CC=CC=C1)N1N=C(C=C1NC(=S)N)C1=CC=CC=C1 | C16H14N4S
